US07947738B2
(26-a) Tert-butyl[(1S,5R,6R)-6-(tert-butoxycarbonylamino)methyl-3-methylbicyclo[3.2.0]hept-3-en-6-yl]acetate
Tert-butyl[(1S,5R,6R)-3-methyl-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate (peak 2, 5.2 g, 18.5 mmol) was dissolved in ethanol (40 mL). To the solution, Raney nickel (1.2 g) was added. To the mixture, hydrazine monohydrate (3.7 g, 74.1 mmol) was added with stirring, and the mixture was stirred overnight at room temperature. The catalyst was filtered off, and the filtrate was then concentrated. The residue was diluted with ethyl acetate, washed with water and saturated saline, then dried, and then concentrated. The residue was dissolved in ethanol (50 mL). To the solution, di-tert-butyl dicarbonate (7.99 g, 36.6 mmol) was added, and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated, and the residue was washed with water and saturated saline, then dried, and then concentrated. The residue was purified by silica gel column chromatography (100 g) to obtain the compound of interest as an oil substance (6.4 g, 99%).

reactant | Tert-butyl[(1S,5R,6R)-3-methyl-6-(nitromethyl)bicyclo[3.2.0]hept-3-en-6-yl]acetate | 18.5 mmol, 5.2 g | C(C)(C)(C)OC(C[C@]1([C@H]2C=C(C[C@H]2C1)C)C[N+](=O)[O-])=O | C15H23NO4
reactant | hydrazine monohydrate | 74.1 mmol, 3.7 g | O.NN
reactant | di-tert-butyl dicarbonate | 36.6 mmol, 7.99 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Raney nickel | 1.2 g | [Ni] | Ni
product | Tert-butyl[(1S,5R,6R)-6-(tert-butoxycarbonylamino)methyl-3-methylbicyclo[3.2.0]hept-3-en-6-yl]acetate | C(C)(C)(C)OC(C[C@]1([C@H]2C=C(C[C@H]2C1)C)CNC(=O)OC(C)(C)C)=O | C20H33NO4
